US07605272B2
5-hydroxy-2-nitrobenzaldehyde (1.00 g, 5.98 mmol) was dissolved in DMF (15.0 mL) and the solution was added with morpholinoethyl chloride hydrochloride (1.11 g, 5.98 mmol) and potassium carbonate (1.65 g, 12.0 mmol), followed by heating at 80° C. for 40 minutes. The reaction mixture was concentrated under reduced pressure, added with water and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (2.00 mL) and added with 4 mol/L hydrogen chloride-methanol solution (2.00 mL), followed by stirring at 0° C. The precipitated crystal was collected by filtration to obtain 5-(2-morpholinoethoxy)-2-nitrobenzaldehyde hydrochloride (1.80 g, 95%).

reactant | 5-hydroxy-2-nitrobenzaldehyde | 5.98 mmol, 1.00 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | morpholinoethyl chloride hydrochloride | 5.98 mmol, 1.11 g | Cl.O1CCN(CC1)CCCl
reactant | potassium carbonate | 12.0 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15.0 mL | CN(C)C=O | C3H7NO
product | 5-(2-morpholinoethoxy)-2-nitrobenzaldehyde hydrochloride | 1.80 g, 95% | Cl.O1CCN(CC1)CCOC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | InChI=1S/C13H16N2O5.ClH/c16-10-11-9-12(1-2-13(11)15(17)18)20-8-5-14-3-6-19-7-4-14;/h1-2,9-10H,3-8H2;1H
